US07855290B2
Ethyl 4-(3-fluoro-4-nitrophenoxy)pyridine-2-carboxylate
To ethyl 4-chloropyridine-2-carboxylate (19.4 g) were added 3-fluoro-4-nitrophenol (24.7 g) and chlorobenzene (7.0 ml), followed by heating and stirring under a nitrogen atmosphere at 120° C. for 4 hr. The reaction mixture was allowed to cool down to room temperature. Ethyl acetate (400 ml) and a saturated aqueous solution of sodium hydrogencarbonate (400 ml) were added thereto, followed by stirring at room temperature for 27 hr. Stirring was stopped and the aqueous layer was separated. To the organic layer was added again a saturated aqueous solution of sodium hydrogencarbonate, followed by stirring at room temperature for 2 days. Stirring was stopped and the aqueous layer was separated. The aqueous layer was extracted with ethyl acetate (300 ml). The organic layers were combined and washed with brine. The organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent; heptane:ethyl acetate=2:1, 1:1, then ethyl acetate). Fractions containing the target compound were concentrated to provide the titled compound as a brown oil (12.9 g, 40.2%).

reactant | ethyl 4-chloropyridine-2-carboxylate | 19.4 g | ClC1=CC(=NC=C1)C(=O)OCC | C8H8ClNO2
reactant | 3-fluoro-4-nitrophenol | 24.7 g | FC=1C=C(C=CC1[N+](=O)[O-])O | C6H4FNO3
reactant | chlorobenzene | 7.0 ml | ClC1=CC=CC=C1 | C6H5Cl
reactant | sodium hydrogencarbonate | 400 ml | C(O)([O-])=O.[Na+]
solvent | Ethyl acetate | 400 ml | C(C)(=O)OCC | C4H8O2
product | Ethyl 4-(3-fluoro-4-nitrophenoxy)pyridine-2-carboxylate | 12.9 g, 40.2% | FC=1C=C(OC2=CC(=NC=C2)C(=O)OCC)C=CC1[N+](=O)[O-] | C14H11FN2O5
